US04549029
A 150 g sample of 4-phenyl-2,2,4-trimethyltetrahydrofuran was added to 1000 ml of anhydrous ammonia, followed by 109 g of anhydrous ethanol. To this mixture was added portionwise over 1 hr 18.7 g of lithium wire. The mixture was allowed to stir at -33° C. for an additional 2 hrs., then sufficient ammonium chloride was added to discharge any residual blue color. The ammonia was allowed to evaporate and the residue was treated with 500 ml of hexane and 500 ml of water. The organic layer was separated and washed with 10% sulfuric acid solution until slightly acidic. The organic layer was washed with 10% soda ash solution and the solvent was removed on a rotary evaporator. Distillation afforded 128 g (84% yield) of the desired 4-(1,4-cyclohexadienyl)-2,2,4-trimethyltetrahydrofuran (bp 83°-84°/0.6 mm Hg) with a purity of 95%. Spectral data were in full agreement with the assigned structure. This material possesses a citrus, grapefruit, floral odor.

reactant | 4-phenyl-2,2,4-trimethyltetrahydrofuran | C1(=CC=CC=C1)C1(CC(OC1)(C)C)C | C13H18O
reactant | ammonia | 1000 ml | N | H3N
reactant | lithium | 18.7 g | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 109 g | C(C)O | C2H6O
product | 4-(1,4-cyclohexadienyl)-2,2,4-trimethyltetrahydrofuran | 128 g, 84% yield | C1(=CCC=CC1)C1(CC(OC1)(C)C)C | C13H20O
